US04616013
5-Nitro-2-bromoindan-1-one
Bromine (1.79 ml) in chloroform (125 ml) was added dropwise over 15 minutes to a stirred solution of 5-nitroindan-1-one (6.17 g) in chloroform (200 ml) at 5° C. The stirred solution was allowed to warm to room temperature and after one hour, when the bromine colour had discharged, the solution was washed with water and dried. Evaporation of the filtered solution under reduced pressure afforded an oil which was diluted with methanol and crystallised (with seeding) to give 5-nitro-2-bromoindan-1-one, m.p. 88.5°-90.5° C. (recrystallised from methanol).

reactant | Bromine | 1.79 ml | BrBr | Br2
reactant | 5-nitroindan-1-one | 6.17 g | [N+](=O)([O-])C=1C=C2CCC(C2=CC1)=O | C9H7NO3
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 5-Nitro-2-bromoindan-1-one | [N+](=O)([O-])C=1C=C2CC(C(C2=CC1)=O)Br | C9H6BrNO3
